US07897607B2
1-Benzyl-5-(2,4-dimethylphenyl)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde
To 0.20 g (0.54 mmol) of 1-benzyl-5-(2,4-dimethylphenyl)-3-(hydroxymethyl)cinnolin-4(1H)-one in 10 mL of dichloromethane was added 0.28 g (0.65 mmol) of Dess-Martin periodinane. The reaction was stirred at room temperature for 90 min before being diluted with sodium bicarbonate solution and extracted with dichloromethane. The combined organic layers were washed with brine, dried over sodium sulfate, filtered, concentrated in vacuo and purified by flash chromatography eluting with a 33% ethyl acetate/hexanes mixture to give 0.17 g (85%) of the title compound as a yellow powder.

reactant | 1-benzyl-5-(2,4-dimethylphenyl)-3-(hydroxymethyl)cinnolin-4(1H)-one | 0.54 mmol, 0.20 g | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)C1=C(C=C(C=C1)C)C)=O)CO | C24H22N2O2
reactant | Dess-Martin periodinane | 0.65 mmol, 0.28 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | 1-Benzyl-5-(2,4-dimethylphenyl)-4-oxo-1,4-dihydrocinnoline-3-carbaldehyde | 0.17 g, 85% | C(C1=CC=CC=C1)N1N=C(C(C2=C(C=CC=C12)C1=C(C=C(C=C1)C)C)=O)C=O | C24H20N2O2
